US07407963B2
3,4-dihydro-7-hydroxy-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone
A mixture of 18.0 g (0.0512 mol) of 3,4-dihydro-7-methoxy-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone and 100 g of pyridine hydrochloride was heated to 160° C. with stirring for 3 hours. After cooling, the product was dissolved in 500 mL of water, the solution obtained was carefully treated with excess solid sodium hydrogen carbonate, whereupon a highly viscous oil was precipitated. This oil was taken up in 150 mL of methanol, the methanolic solution formed was clarified over activated charcoal, then freed from solvent in vacuo once more. The residue was stirred with 50 mL of acetonitrile and then brought to the boil. It was left to cool and the precipitate formed was suction filtered and dried in vacuo at ambient temperature. Yield: 10.8 g (63% of theoretical). Rf=0.32 (MP F). IR (KBr): 1649 (C═O) cm−1; MS: M+=337.

reactant | 3,4-dihydro-7-methoxy-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone | 0.0512 mol, 18.0 g | COC1=CC=C2CN(C(NC2=C1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C21H25N3O2
reactant | pyridine hydrochloride | 100 g | Cl.N1=CC=CC=C1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | charcoal | C | CH4
solvent | water | 500 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3,4-dihydro-7-hydroxy-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone | OC1=CC=C2CN(C(NC2=C1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C20H23N3O2
